US05041510
A solution of 273.4 g (1 mole) of N,N-dibenzylaniline and 146.7 g (1.1 mole) of anhydrous aluminum chloride in methylene chloride is cooled to 0° C., and 282.1 g (1 mole) of trifluoromethanesulfonic anhydride is added dropwise to the mixture. The reaction is allowed to warm to room temperature and stir overnight. The solution is poured into water and stirred vigorously for one hour. The layers are separated, and the aqueous layer is extracted with additional methylene chloride. The combined organics are then filtered through cotton and evaporated to yield 4-triflyl-N,N-dibenzylaniline.

reactant | N,N-dibenzylaniline | 1 mole, 273.4 g | C(C1=CC=CC=C1)N(C1=CC=CC=C1)CC1=CC=CC=C1 | C20H19N
reactant | aluminum chloride | 1.1 mole, 146.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | trifluoromethanesulfonic anhydride | 1 mole, 282.1 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-triflyl-N,N-dibenzylaniline | S(=O)(=O)(C(F)(F)F)C1=CC=C(N(CC2=CC=CC=C2)CC2=CC=CC=C2)C=C1 | C21H18F3NO2S
